US07192657B2
Into a 2 L flask fitted with a reflux condenser and magnetic stir-bar was introduced 2,5-dibromobenzoic acid (50.0 g, 0.1786 mol) and thionyl chloride (150 mL, 2.04 mol). The mixture was refluxed for 8 hours. Most of the thionyl chloride was distilled off followed by removal of the remainder by rotary evaporation. Distillation gave 40 g of 2,5-dibromobenzoyl chloride. (pot temperature 110° C.; distillation temp 70° C./0.70 mm Hg).

reactant | 2,5-dibromobenzoic acid | 0.1786 mol, 50.0 g | BrC1=C(C(=O)O)C=C(C=C1)Br | C7H4Br2O2
reactant | thionyl chloride | 2.04 mol, 150 mL | S(=O)(Cl)Cl | Cl2OS
product | 2,5-dibromobenzoyl chloride | 40 g | BrC1=C(C(=O)Cl)C=C(C=C1)Br | C7H3Br2ClO
